US06930120B2
2-(4-Fluoro-phenoxy)-2-methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid
The title compound was prepared from 2-(4-fluorophenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester using the procedure of Example 63. 1H NMR (400 MHz, CDCl3) δ 7.58 (dd, 1H, J=3.52 Hz, J=1.17 Hz), 7.36 (dd, 1H, J=5.08 Hz, J=1.17 Hz), 7.18 (d, 2H, J=8.60 Hz), 7.06 (dd, 1H, J=5.08 Hz, J=3.91 Hz), 6.93-6.85 (m, 4H), 6.82 (d, 2H, J=8.60 Hz), 4.18 (t, 2H, J=6.65 Hz), 3.21 (d, 1H, J=13.69 Hz), 3.13 (d, 1H, J=13.69 Hz), 2.96 (t, 2H, J=6.65 Hz), 2.35 (s, 3H), 1.36 (s, 3H); HRMS (ES+) m/z exact mass calcd for C26H25NO5FS 482.1437, found 482.1451.

reactant | 2-(4-fluorophenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC=C(C=C1)F)=O | C18H19FO4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO4S2
product | 2-(4-Fluoro-phenoxy)-2-methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid | FC1=CC=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C=2SC=CC2)C)C=C1 | C26H24FNO5S
